US07504408B2
b) Preparation of 7-iodo-1,3-benzodioxol-4-amine
Benzyltrimethylammonium dichloroiodate (2.8 g) was added portionwise over 10 minutes to a stirred mixture of 1,3-benzodioxol-4-amine (1 g), calcium carbonate (0.95 g) in methanol (5 ml) and dichloromethane (10 ml). The reaction mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was diluted with water and extracted with dichloromethane. The organics were washed with water saturated brine and dried over magnesium sulfate. The residue was purified by column chromatography on silica using a gradient of an 8:1 mixture of dichloromethane/isohexane to Dichloromethane as eluent. There was thus obtained 7-iodo-1,3-benzodioxol-4-amine as a beige crystalline solid (1.1 g); NMR Spectrum: (DMSOd6) 5.04 (bs, 2H); 5.94 (s, 2H); 6.13 (d, 1H), 6.80 (d, 1H).

reactant | Benzyltrimethylammonium dichloroiodate | 2.8 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 1,3-benzodioxol-4-amine | 1 g | O1COC2=C1C=CC=C2N | C7H7NO2
reactant | calcium carbonate | 0.95 g | C([O-])([O-])=O.[Ca+2]
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7-iodo-1,3-benzodioxol-4-amine | IC1=CC=C(C2=C1OCO2)N | C7H6INO2
